US08084620B2
Step 1 A solution of 5-bromo-4-methylthiazol-2-amine (2.00 g, 10.36 mmol) in pyridine (10 mL) was treated portionwise at rt with di-tert-butyl dicarbonate (2.487 g, 11.40 mmol). After stirring at rt overnight significant starting material remained. The mixture was cooled to 0° C. and treated with lithium hexamethyldisilazide (1 M in THF, 25.9 mL, 25.9 mmol) followed by di-tert-butyl dicarbonate (2.487 g, 11.40 mmol). The mixture was warmed to rt for 1 h, then was diluted with EtOAc, washed twice with 0.5 M hydrochloric acid, then with 1 M aqueous sodium hydroxide, dried and concentrated. Purification of the residue by column chromatography (elution with hexane-EtOAc) provided tert-butyl 5-bromo-4-methylthiazol-2-ylcarbamate (814 mg, 27%). 1H NMR (400 MHz, chloroform-d) δ 2.27 (3H, s), 1.53 (9H, s). Mass spectrum m/z 293, 295 (M+H)+.

reactant | 5-bromo-4-methylthiazol-2-amine | 10.36 mmol, 2.00 g | BrC1=C(N=C(S1)N)C | C4H5BrN2S
reactant | di-tert-butyl dicarbonate | 11.40 mmol, 2.487 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | lithium hexamethyldisilazide | 25.9 mmol, 1 M, 25.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | di-tert-butyl dicarbonate | 11.40 mmol, 2.487 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 5-bromo-4-methylthiazol-2-ylcarbamate | 814 mg, 27% | BrC1=C(N=C(S1)NC(OC(C)(C)C)=O)C | C9H13BrN2O2S
